US04966975
Step (3) Preparation of 8-Bromo-2-naphthoic Acid
According to the procedure of W. Adcock, et al. Aust. J. Chem. 18, 1351 (1965) and H. H. Hodgson, et al. J. Chem. Soc., 1620 (1933), to a cooled (10° C.), stirred solution of NaNO2 (1.24 g, 0.0179 mol) in H2SO4 (16.1 mL) and HOAc (14.9 mL) [prepared by adding NaNO2 to cooled (10° C.) H2SO4, heating to dissolve, recooling, and adding HOAc] was added a solution of 8-amino-2-naphthoic acid (2.80 g, 0.0150 mol) in HOAc (50 mL) over 10 minutes. The resulting solution was added slowly (over 10 minutes) to a heated (60° C.), stirred solution of CuBr (9.44 g, 0.0658 mol) in concentrated HBr (90 mL). The mixture was warmed to 90° C. for 10 minutes, cooled, diluted with H2O (200 mL) and filtered to give a green solid, 3.4 g. The crude product was combined with similarly prepared material (450 mg) and recrystallized from EtOH to give an off-white solid (2.3 g, 55%), m.p. 265°-266° C.

reactant | NaNO2 | 0.0179 mol, 1.24 g | N(=O)[O-].[Na+]
reactant | 8-amino-2-naphthoic acid | 0.0150 mol, 2.80 g | NC=1C=CC=C2C=CC(=CC12)C(=O)O | C11H9NO2
reactant | HBr | 90 mL | Br | BrH
solvent | H2SO4 | 16.1 mL | OS(=O)(=O)O | H2O4S
solvent | HOAc | 14.9 mL | CC(=O)O | C2H4O2
solvent | HOAc | 50 mL | CC(=O)O | C2H4O2
solvent | H2O | 200 mL | O | H2O
product | 8-Bromo-2-naphthoic Acid | 2.3 g, 55% | BrC=1C=CC=C2C=CC(=CC12)C(=O)O | C11H7BrO2
